US07259266B2
Step 1: Preparation of ethyl 6-chloro-7-(ethoxymethyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A solution of pyrrole (55 mg, 0.75 mmol) in 1.5 mL DME was added to a mixture of NaH (38 mg, 0.83 mmol) in I mL DME at 0° C. under argon. The mixture was stirred at 0° C. for 10 min and then warmed to 25° C. After 30 min, a solution of ethyl 7-(bromomethyl)-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylate (300 mg, 0.75 mmol), from Example 162 Step 3, was dissolved in 2.5 mL DME was added dropwise. After 3 h, the reaction was filtered through a pad of Celite (1″) and washed with EtOAc (10 mL). The filtrate was concentrated to give a brown oil in 350 mg (100%).

reactant | pyrrole | 0.75 mmol, 55 mg | N1C=CC=C1 | C4H5N
reactant | NaH | 0.83 mmol, 38 mg | [H-].[Na+]
reactant | ethyl 7-(bromomethyl)-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.75 mmol, 300 mg | BrCC1=C(C=C2C=C(C(OC2=C1)C(F)(F)F)C(=O)OCC)Cl | C14H11BrClF3O3
reactant | DME | 1.5 mL | COCCOC | C4H10O2
reactant | DME | 2.5 mL | COCCOC | C4H10O2
product | ethyl 6-chloro-7-(ethoxymethyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C2C=C(C(OC2=CC1COCC)C(F)(F)F)C(=O)OCC | C16H16ClF3O4
